US08877805B2
Step 1. Synthesis of 4-amidino-2-methoxyphenol hydrochloride
To 3-methoxy-4-hydroxybenzonitrile (2.0 g, 13.4 mmol) were added ethanol (3 mL) and 4N hydrochloric acid/1,4-dioxane (27 mL), and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was dissolved in ethanol (50 mL). Ammonium carbonate (6.4 g, 67 mmol) was added, and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, water was added and the mixture was freeze-dried to give the title compound (1.82 g).

reactant | 3-methoxy-4-hydroxybenzonitrile | 13.4 mmol, 2.0 g | COC=1C=C(C#N)C=CC1O | C8H7NO2
reactant | hydrochloric acid 1,4-dioxane | 4N, 27 mL | Cl.O1CCOCC1
reactant | Ammonium carbonate | 67 mmol, 6.4 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-amidino-2-methoxyphenol hydrochloride | 1.82 g | Cl.C(N)(=N)C1=CC(=C(C=C1)O)OC | InChI=1S/C8H10N2O2.ClH/c1-12-7-4-5(8(9)10)2-3-6(7)11;/h2-4,11H,1H3,(H3,9,10);1H
